US08748624B2
STEP C: tert-butyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate
Solid NaBH(OAc)3 (90 mg, 0.42 mmol) was added to a THF solution (1.5 mL) of tert-butyl 3-(5-(2-formylphenyl)picolinamido)propanoate (100 mg, 0.28 mmol), 4′-chloro-[1,1′-biphenyl]-4-amine (86 mg, 0.42 mmol), and AcOH (16 μL, 0.28 mmol) and the resulting mixture was stirred at room temperature. After 16 h the resulting mixture diluted with EtOAc washed with water and brine, dried (Na2SO4), dry-packed onto silica gel and purified via column chromatography to yield the title compound.

reactant | NaBH(OAc)3 | 0.42 mmol, 90 mg | [BH-](OC(=O)C)(OC(=O)C)OC(=O)C.[Na+]
reactant | tert-butyl 3-(5-(2-formylphenyl)picolinamido)propanoate | 0.28 mmol, 100 mg | C(=O)C1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C20H22N2O4
reactant | 4′-chloro-[1,1′-biphenyl]-4-amine | 0.42 mmol, 86 mg | ClC1=CC=C(C=C1)C1=CC=C(C=C1)N | C12H10ClN
reactant | AcOH | 0.28 mmol, 16 μL | CC(=O)O | C2H4O2
solvent | EtOAc | CCOC(=O)C | C4H8O2
solvent | THF | 1.5 mL | C1CCOC1 | C4H8O
product | tert-butyl 3-(5-(2-(((4′-chloro-[1,1′-biphenyl]-4-yl)amino)methyl)phenyl)picolinamido)propanoate | ClC1=CC=C(C=C1)C1=CC=C(C=C1)NCC1=C(C=CC=C1)C=1C=CC(=NC1)C(=O)NCCC(=O)OC(C)(C)C | C32H32ClN3O3
